US05315025
A mixture of methyl (2-chloro-6-fluorophenyl)acetate (5.20 g) and methyl formate (31.4 ml) in dry DMF (40 ml) was added dropwise to a stirred suspension of sodium hydride (1.23 g) in dry DMF (40 ml) at a temperature between 0° and 5° C. Vigorous evolution of gas was observed. The reaction mixture was stirred at room temperature for 3.5 hours, then poured into a mixture of ice and aqueous sodium carbonate, and washed with ether. The resulting aqueous mixture was acidified with concentrated hydrochloric acid and extracted with ether. The extracts were washed with water, dried and concentrated to give methyl 2-(2-chloro-6-fluorophenyl)-3-hydroxypropenoate (3.44 g) as a white solid.

reactant | methyl (2-chloro-6-fluorophenyl)acetate | 5.20 g | ClC1=C(C(=CC=C1)F)CC(=O)OC | C9H8ClFO2
reactant | methyl formate | 31.4 ml | C(=O)OC | C2H4O2
reactant | sodium hydride | 1.23 g | [H-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | methyl 2-(2-chloro-6-fluorophenyl)-3-hydroxypropenoate | 3.44 g | ClC1=C(C(=CC=C1)F)C(C(=O)OC)=CO | C10H8ClFO3
